US05192745
A3, Glu;
A4Glu, Asp, Pro, or Ala;

reactant | Asp | N[C@@H](CC(O)=O)C(=O)O | C4H7NO4
reactant | Ala | N[C@@H](C)C(=O)O | C3H7NO2
product | Glu | N[C@@H](CCC(O)=O)C(=O)O | C5H9NO4
